US07652049B2
Bromine (80.6 mg, 26 μL, 0.504 mmol) was added to a solution of 2-fluoro-1-isopropyl-3,4-dimethoxybenzene (50.0 mg, 0.252 mmol) and potassium acetate (49.5 mg, 0.504 mmol) in acetic acid (1 mL) at room temperature and the reaction was stirred overnight. The reaction was diluted with water (10 mL) and saturated Na2SO3 (10 mL), then extracted with EtOAc (3×20 mL). The combined extracts were washed with saturated NaHCO3 (2×10 mL), dried (MgSO4) and concentrated in vacuo to afford 1-bromo-3-fluoro-2-isopropyl-4,5-dimethoxybenzene. 1H NMR (600 MHz, CDCl3) δ 6.86 (d, J=2.0 Hz, 1H), 3.87 (s, 3H), 3.81 (s, 3H), 3.43-3.34 (m, 1H), 1.31-1.29 (dd, J=7.1, 1.4 Hz, 6H).

reactant | Bromine | 0.504 mmol, 26 μL, 80.6 mg | BrBr | Br2
reactant | 2-fluoro-1-isopropyl-3,4-dimethoxybenzene | 0.252 mmol, 50.0 mg | FC1=C(C=CC(=C1OC)OC)C(C)C | C11H15FO2
reactant | potassium acetate | 0.504 mmol, 49.5 mg | C(C)(=O)[O-].[K+]
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | water | 10 mL | O | H2O
solvent | Na2SO3 | 10 mL | [O-]S(=O)[O-].[Na+].[Na+]
product | 1-bromo-3-fluoro-2-isopropyl-4,5-dimethoxybenzene | BrC1=C(C(=C(C(=C1)OC)OC)F)C(C)C | C11H14BrFO2
